US06342765B1
A mixture of methyl 4-(4-fluorophenethyl)-3-methoxycarbonylbenzoate (51.00 g., 161.22 mmol), dioxane (650 ml), methanol (650 ml), sodium hydroxide (7.10 g., 177.35 mmol) and water (100 ml) was stirred at ambient temperature under an inert atmosphere for 16 hours. The reaction was evaporated to dryness, water (500 ml) added to the residue and the mixture extracted with diethylether. The organic extracts were dried and evaporated to dryness to give recovered methyl 4-(4-fluorophenethyl)-3-methoxycarbonylbenzoate (7 g). The aqueous layer was acidified to pH 2 with 2M HCl (300 ml) and extracted with ethyl acetate (300 ml). The organic extracts were dried, filtered and evaporated to dryness to give, as a white solid, 4-(4-fluorophenethyl)-3-methoxycarbonylbenzoic acid (42.00 g).

reactant | methyl 4-(4-fluorophenethyl)-3-methoxycarbonylbenzoate | 161.22 mmol, 51.00 g | FC1=CC=C(CCC2=C(C=C(C(=O)OC)C=C2)C(=O)OC)C=C1 | C18H17FO4
reactant | dioxane | 650 ml | O1CCOCC1 | C4H8O2
reactant | methanol | 650 ml | CO | CH4O
reactant | sodium hydroxide | 177.35 mmol, 7.10 g | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
product | 4-(4-fluorophenethyl)-3-methoxycarbonylbenzoic acid | 42.00 g | FC1=CC=C(CCC2=C(C=C(C(=O)O)C=C2)C(=O)OC)C=C1 | C17H15FO4
